US07968538B2
N-(5-Fluoro-2-(methylsulfonyl)phenyl)-1,2,3,4-tetrahydro-5,8-dimethoxynaphthalen-1-amine
A solution of 1,2,3,4-tetrahydro-5,8-dimethoxynaphthalen-1-amine (1.1 g mL, 5.31 mmol), 2,4-difluoro-1-(methylsulfonyl)benzene (1.02 g, 5.31 mmol) and diisopropylethylamine (3.7 mL, 21.26 mmol) in N,N-dimethylformamide (10 mL) was stirred at 90° C. for 16 h. The reaction mixture was diluted with water and extracted with diethyl ether. The combined extracts were washed with water and brine, dried, and concentrated under reduced pressure to yield 1.95 g of a yellow oil. The residue was purified by PTLC (25% ethyl acetate in hexanes) to give 1.26 g (63%) of the desired aniline: 1H NMR (400 MHz, CDCl3) δ 7.40 (dd, 1H), 6.73 (d, 1H), 6.66 (m, 2H), 6.44 (dt, 1H), 6.22 (br d, 1H), 4.79 (br s, 1H), 3.80 (s, 3H), 3.67 (s, 3H), 2.96-2.88 (m, 4H), 2.46-2.37 (m, 1H), 2.17-2.12 (br d, 1H), 1.92-1.84 (m, 1H), 1.78-1.60 (m, 2H). MS (ESI) m/z: Calculated: 379.13; Observed: 402.2 (M++23).

reactant | 1,2,3,4-tetrahydro-5,8-dimethoxynaphthalen-1-amine | 5.31 mmol, 1.1 g | COC1=C2CCCC(C2=C(C=C1)OC)N | C12H17NO2
reactant | 2,4-difluoro-1-(methylsulfonyl)benzene | 5.31 mmol, 1.02 g | FC1=C(C=CC(=C1)F)S(=O)(=O)C | C7H6F2O2S
reactant | diisopropylethylamine | 21.26 mmol, 3.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(5-Fluoro-2-(methylsulfonyl)phenyl)-1,2,3,4-tetrahydro-5,8-dimethoxynaphthalen-1-amine | 1.95 g | FC=1C=CC(=C(C1)NC1CCCC2=C(C=CC(=C12)OC)OC)S(=O)(=O)C | C19H22FNO4S
